US04451471
7 g of phosphorus pentasulphide in 20 ml of formamide are added to a solution of 7 g of 2-bromo-1,2-bis-(p-methoxyphenyl)-ethanone in 20 ml of benzene and the mixture is heated at the boil for 1 hour. It is allowed to cool, neutralised with 10% strength sodium hydroxide solution and extracted by shaking with chloroform. The organic phase is removed, washed with water, dried over magnesium sulphate and concentrated by evaporation. 4,5-bis-(p-methoxyphenyl)-thiazole having a melting point of 98°-99° is obtained, which can be used without further purification.

reactant | phosphorus pentasulphide | 7 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | 2-bromo-1,2-bis-(p-methoxyphenyl)-ethanone | 7 g | BrC(C(=O)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C16H15BrO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | formamide | 20 ml | C(=O)N | CH3NO
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 4,5-bis-(p-methoxyphenyl)-thiazole | COC1=CC=C(C=C1)C=1N=CSC1C1=CC=C(C=C1)OC | C17H15NO2S
